US04198419
A mixture of 1.2 g of 4-[2-(4-chlorophenylthio)phenyl]-1,4-dicyanopiperidine, Example 24, and 15 ml of a glacial acetic acid 3 N hydrochloric acid (1:2) solution is stirred at 110° C. for 24 hours. Thereafter, the solution is diluted with 80 ml of water before being evaporated to dryness. The solid residue is made strongly basic with ammonium hydroxide and the alkaline solution is extracted with ether. The combined ether extracts are successively dried, filtered and concentrated to dryness, leaving a white solid. The solid is dissolved in methylene chloride and this solution is chromatographed (silica gel/methylene chloride column, 10% methyl alcohol in methylene chloride as eluant). The desired fractions are concentrated to dryness. The resulting material is recrystallized from cyclohexane to provide 4-[2-(4-chlorophenylthio)phenyl]-4-cyanopiperidine.

reactant | 4-[2-(4-chlorophenylthio)phenyl]-1,4-dicyanopiperidine | 1.2 g | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)C1(CCN(CC1)C#N)C#N | C19H16ClN3S
reactant | acetic acid | 3 N, 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 80 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-chlorophenylthio)phenyl]-4-cyanopiperidine | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)C1(CCNCC1)C#N | C18H17ClN2S
